* source CAD2
R_R1         0 N00080 R_R1 619k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_R2         0 N00098  {r} TC=0,0 
V_V1         N00068 0 18V
Q_Q5         N00098 N00080 N00068 Q2N4402
Q_Q6         N00080 N00080 N00068 Q2N4402
.PARAM  r=100k
