* source PROIECTCAD
R_R1         N00105 VCC R_R1 649k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_Rsenzor         N00140 VCC  {r} TC=0,0 
V_V1         VCC 0 18
Q_Q1         N00140 N00105 N007722 BC107A 
Q_Q2         N00105 N00105 N008072 BC107A 
R_R2         0 N008072 R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         0 N007722 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
V_V2         -VCC 0 -18
R_R4         N01692 N02095 R_R4 5.36k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         N02095 0 R_R5 5.62k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         VREF1 N02162 R_R6 5.36k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N02162 OUT R_R7 5.62k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         VCC N03370 R_R8 45.3k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         0 N03370 R_R9 287 TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         VCC N06348 R_R10 14.3k TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R11         0 N06348 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R12         N06690 VREF2  10k TC=0,0 
R_R13         N06690 N06785 R_R13 169k TC=0,0 
.model        R_R13 RES R=1 DEV=2% TC1=0 TC2=0
R_R14         N07931 N06785  732 TC=0,0 
D_D1         N07931 0 BlueLED 
R_R15         N06785 N08572 R_R15 54.9k TC=0,0 
.model        R_R15 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q3         N08600 N08572 0 BC107A 
R_R16         N08600 VCC R_R16 634 TC=0,0 
.model        R_R16 RES R=1 DEV=1% TC1=0 TC2=0
D_D2         N08600 VCC BlueLED 
V_V3         N10450 0 1V
D_D3         N10450 0 BlueLED 
X_U5         N06690 OUT VCC -VCC N06785 uA741
X_U6         N02095 N02162 VCC -VCC OUT uA741
X_U7         N06348 VREF2 VCC -VCC VREF2 uA741
X_U8         N03370 VREF1 VCC -VCC VREF1 uA741
X_U9         N00140 N01692 VCC -VCC N01692 uA741
.PARAM  r=100k
