* source TEST
Q_Q1         N00182 N00151 0 BC550C 
Q_Q2         N00151 N00151 0 BC550C 
R_Rsenzor         N00182 VCC  {r} TC=0,0 
R_R1         N00151 VCC R_R1 619k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
V_V2         VCC 0 18
V_V3         -VCC 0 -18
.PARAM  r=100k
